US06342498B1
A. 1-(2-methoxyphenyl)-4-(6-(4-(6-fluoroindole-3-yl)-1,2,3,6-tetrahydropyridin-1-yl)hexanoyl)piperazine
Following the same procedure reported in the Step 2 of EXAMPLE 13, the reaction of 1-(2-methoxyphenyl)-4-(6-bromohexanoyl)piperazine (2.37 mmol) with 6-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (2.37 mmol) and triethylamine (2.87 mmol) gave the alkylation product (780 mg, 65%).

reactant | 1-(2-methoxyphenyl)-4-(6-bromohexanoyl)piperazine | 2.37 mmol | COC1=C(C=CC=C1)N1CCN(CC1)C(CCCCCBr)=O | C17H25BrN2O2
reactant | 6-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 2.37 mmol | FC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C13H13FN2
reactant | triethylamine | 2.87 mmol | C(C)N(CC)CC | C6H15N
product | 1-(2-methoxyphenyl)-4-(6-(4-(6-fluoroindole-3-yl)-1,2,3,6-tetrahydropyridin-1-yl)hexanoyl)piperazine | 780 mg, 65% | COC1=C(C=CC=C1)N1CCN(CC1)C(CCCCCN1CCC(=CC1)C1=CNC2=CC(=CC=C12)F)=O | C30H37FN4O2
